US07642264B2
3-{4-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide
To a cooled and stirred solution of N-tert-butyl-3-{4-[4-methyl-6-(4-trifluoromethylphenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide (0.23 g) in dichloromethane (4 mL) was added TFA (4 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and purified by flash chromatography (heptane/ethyl acetate) and crystallization (dichloromethane/MeOH/hexane) to yield the title compound as a white solid (0.081, 21%). MS (ISP) 471.5 [(M+H)+]; mp 218.5° C.

reactant | N-tert-butyl-3-{4-[4-methyl-6-(4-trifluoromethylphenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide | 0.23 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C27H25F3N4O2S
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-{4-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide | 21% | CC1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=NC=C1)C=1C=C(C=CC1)S(=O)(=O)N | C23H17F3N4O2S
